US07915443B2
methyl 6-amino-5-iodonicotinate
To a solution of iodine (3.55 g, 14.0 mmol) in 100 mL absolute ethanol at room temperature was added silver sulfate (4.37 g, 14.0 mmol) and methyl 6-aminonicotinate (1.52 g, 10.0 mmol). After 42 hours the reaction was filtered to isolate a tan precipitate. The solid was heated with 20% MeOH/CHCl3 then cooled to room temperature, filtered, and rinsed with MeOH and CHCl3. The filtrate was evaporated, dissolved in hot MeOH, filtered to remove brownish impurities, and then crystallized from MeOH to give the title compound as a light tan solid (1.73 g, 62%).

reactant | iodine | 14.0 mmol, 3.55 g | II | I2
reactant | methyl 6-aminonicotinate | 10.0 mmol, 1.52 g | NC1=NC=C(C(=O)OC)C=C1 | C7H8N2O2
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | silver sulfate | 14.0 mmol, 4.37 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | methyl 6-amino-5-iodonicotinate | 1.73 g, 62% | NC1=NC=C(C(=O)OC)C=C1I | C7H7IN2O2
